US06774136B2
1-(Morpholin-4-yl-phenyl-methyl]-naphthalen-2-ol
The preparation was carried out in accordance with general synthesis instructions 4 from 4-benzylidene-morpholin-4-ium chloride and 2-naphthol.

reactant | 4-benzylidene-morpholin-4-ium chloride | [Cl-].C(C1=CC=CC=C1)=[N+]1CCOCC1
reactant | 2-naphthol | C1=C(C=CC2=CC=CC=C12)O | C10H8O
product | 1-(Morpholin-4-yl-phenyl-methyl]-naphthalen-2-ol | N1(CCOCC1)C(C1=C(C=CC2=CC=CC=C12)O)C1=CC=CC=C1 | C21H21NO2
